US09212138B2
(Z)-3-(pyridin-3-yl)-2-(5-(3,4,5-trimethoxyphenyl)-1H-indol-3-yl)-acrylonitrile
To a solution of (Z)-2-(5-bromo-1H-indol-3-yl)-3-pyridin-3-yl-acrylonitrile (180 mg, 0.56 mmol, 1.0 eq.) in anhydrous and degazed THF (6.0 mL) were added, under an argon atmosphere, K3PO4 (236 mg, 1.11 mmol, 2.0 eq.), PdCl2(dppf)*CH2Cl2 (41 mg, 0.056 mmol, 0.1 eq.) and 3,4,5-trimethoxyphenylboronic acid (235 mg, 1.11 mmol, 2.0 eq.). The reaction apparatus was protected from light and the mixture was heated at 50° C. for 16 hours, and then, quenched with a saturated aqueous ammonium chloride solution, after cooling to room temperature. The mixture was extracted with ethyl acetate and the organic layer was washed with water, dried over MgSO4, and then, evaporated under reduced pressure. The residue was purified by silica gel flash-column chromatography (eluent: heptane/AcOEt, 40/60 to 30/70) to afford, after trituration with diethyl ether, the compound (38) as a yellow solid (145 mg, 63%). IR νmax (cm−1): 2216 (νCN), 3307 (νN—H); 1H NMR (DMSO, 500 MHz) δ (ppm): 3.70 (3H, s, 11′-methoxy), 3.88 (6H, s, 10′- and 12′-methoxy), 6.96 (2H, s, H9′ and H13′), 7.55 (3H, m, H6′, H7′ and H5″), 7.88 (1H, m, H4′), 7.93 (1H, s, H3), 8.24 (1H, s, H2′), 8.35 (1H, d, J4″-5″=7.9 Hz, H4″), 8.59 (1H, d, J6-5″=4.9 Hz, H6″), 9.01 (1H, s, H2″), 11.84 (1H, s, indolic H); 13C NMR (DMSO, 75.5 MHz) δ (ppm): 56.5 (10′- and 12′-methoxy), 60.5 (11′-methoxy), 105.3 (C9′ and C13′), 108.4 (C2), 111.4 (C3′), 113.2 (C7′), 118.2 (C2′), 118.6 (C1), 122.9 (C6′), 124.1 (C5″), 124.5 (C3a′), 128.4 (C4′), 131.4 (C3″), 133.6 (C11′), 134.2 (C7a′), 135.2 (C4″), 137.2 (C3), 138.0 (C8′), 150.1 (C6″), 150.5 (C2″), 153.6 (C10′ and C12′); ESI-MS: m/z 412.2 ([M+H]+), 434.1 ([M+Na]+); HRESI-MS: m/z 434.1481 (calcd for C25H21N3O3Na+, 434.1481).

reactant | (Z)-2-(5-bromo-1H-indol-3-yl)-3-pyridin-3-yl-acrylonitrile | 0.56 mmol, 180 mg, 1.0 eq. | BrC=1C=C2C(=CNC2=CC1)/C(/C#N)=C/C=1C=NC=CC1 | C16H10BrN3
reactant | THF | 6.0 mL | C1CCOC1 | C4H8O
reactant | K3PO4 | 1.11 mmol, 236 mg, 2.0 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 3,4,5-trimethoxyphenylboronic acid | 1.11 mmol, 235 mg, 2.0 eq. | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
catalyst | PdCl2(dppf) | 0.056 mmol, 41 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | diethyl ether | C(C)OCC | C4H10O
product | (Z)-3-(pyridin-3-yl)-2-(5-(3,4,5-trimethoxyphenyl)-1H-indol-3-yl)-acrylonitrile | N1=CC(=CC=C1)\C=C(/C#N)\C1=CNC2=CC=C(C=C12)C1=CC(=C(C(=C1)OC)OC)OC | C25H21N3O3
